US04741997
(4) Synthesis of calcium 3-methylsulfonyl-4-(2-acetylamino-5-chloro-4-hydroxyphenylazo)phenylsulfonate
A solution containing 18.6 g (0.1 mole) of 5-acetylamino-2-chlorophenol, 100 ml of 0.2 N sodium hydroxide, and 50 ml of acetonitrile was maintained at a temperature of 5° C. or less with stirring. Separately, 32.4 g (0.12 mole) of calcium 4-amino-3-methylsulfonylphenylsulfonate was diazotized with nitrosylsulfuric acid in the routine manner and the resulting diazo solution was added in portions to the above solution. After completion of the addition, 0.2N sodium hydroxide was added dropwise with ice-cooling unil the pH of the mixture became 4 to 5. After 30 minutes, the reaction mixture was adjusted to a pH value not exceeding 2 with 36% hydrochloric acid and 100 g of calcium chloride was added for salting-out. The crystalline precipitate was collected by filtration, washed with 50 ml of methanol and dried.

reactant | 5-acetylamino-2-chlorophenol | 0.1 mole, 18.6 g | C(C)(=O)NC=1C=CC(=C(C1)O)Cl | C8H8ClNO2
reactant | sodium hydroxide | 0.2 N, 100 ml | [OH-].[Na+]
reactant | calcium 4-amino-3-methylsulfonylphenylsulfonate | 0.12 mole, 32.4 g | NC1=C(C=C(C=C1)S(=O)(=O)[O-])S(=O)(=O)C.[Ca+2].NC1=C(C=C(C=C1)S(=O)(=O)[O-])S(=O)(=O)C
reactant | nitrosylsulfuric acid | N(=O)OS(O)(=O)=O | HNO5S
reactant | sodium hydroxide | 0.2N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | calcium chloride | 100 g | [Cl-].[Ca+2].[Cl-]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | calcium 3-methylsulfonyl-4-(2-acetylamino-5-chloro-4-hydroxyphenylazo)phenylsulfonate | CS(=O)(=O)C=1C=C(C=CC1N=NC1=C(C=C(C(=C1)Cl)O)NC(C)=O)S(=O)(=O)[O-].[Ca+2].CS(=O)(=O)C=1C=C(C=CC1N=NC1=C(C=C(C(=C1)Cl)O)NC(C)=O)S(=O)(=O)[O-] | InChI=1S/2C15H14ClN3O7S2.Ca/c2*1-8(20)17-12-7-14(21)10(16)6-13(12)19-18-11-4-3-9(28(24,25)26)5-15(11)27(2,22)23;/h2*3-7,21H,1-2H3,(H,17,20)(H,24,25,26);/q;;+2/p-2
